US08013010B2
2-Chloro-5-(2-methyl-4-pyridinyl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside
By carrying out the operation analogously to example 3, starting from 5-bromo-2-chlorophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside, obtained according to preparation X, and 2-methyl-4-pyridineboronic acid, the expected product is obtained and is reacted further without additional purification in order to obtain the nonacetylated xyloside.

reactant | 5-bromo-2-chlorophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | C(C)(=O)O[C@H]1[C@H](OC2=C(C=CC(=C2)Br)Cl)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C17H18BrClO7S
reactant | 2-methyl-4-pyridineboronic acid | CC1=NC=CC(=C1)B(O)O | C6H8BNO2
product | 2-Chloro-5-(2-methyl-4-pyridinyl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | C(C)(=O)O[C@H]1[C@H](OC2=C(C=CC(=C2)C2=CC(=NC=C2)C)Cl)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C23H24ClNO7S
